US09102903B2
a.) Synthesis of 1,8-diethyl-1,4,8,11-tetraazacyclotetradecane manganese(II) dichloride
12.6 g (0.1 mol) of manganese(II) chloride were dissolved in 100 ml of DMAC. The solution was admixed with 25.6 g (0.1 mol) of 1,8-diethyl-1,4,8,11-tetraazacyclotetradecane. The reaction mixture was heated at 100° C. for 5 hours. The resulting suspension was then cooled to room temperature, and the resulting solid was filtered off, washed with 50 ml of DMAC and then dried in vacuo at a temperature of 80° C. This gave 37.1 g of the pale grey complex, which corresponds to a yield of 97.0%.

reactant | manganese(II) chloride | 0.1 mol, 12.6 g | [Cl-].[Mn+2].[Cl-]
reactant | 1,8-diethyl-1,4,8,11-tetraazacyclotetradecane | 0.1 mol, 25.6 g | C(C)N1CCNCCCN(CCNCCC1)CC | C14H32N4
solvent | DMAC | 100 ml | CC(=O)N(C)C | C4H9NO
product | 1,8-diethyl-1,4,8,11-tetraazacyclotetradecane manganese(II) dichloride | yield of 97.0% | [Cl-].[Cl-].[Mn+2].C(C)N1CCNCCCN(CCNCCC1)CC | InChI=1S/C14H32N4.2ClH.Mn/c1-3-17-11-5-7-16-10-14-18(4-2)12-6-8-15-9-13-17;;;/h15-16H,3-14H2,1-2H3;2*1H;/q;;;+2/p-2
